US08067445B2
Step 1: (2′-{[Ethyl-(pyrrolidine-1-carbonyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
To a solution of (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.207 g, 0.54 mmol) and diisopropylethylamine (0.38 mL, 2.16 mmol) in CH2Cl2 (2 mL) at 0° C. was added phosgene (20% in toluene; 0.43 mL, 0.81 mmol), and the reaction was stirred for 2 hours. Pyrrolidine (0.13 mL, 1.62 mmol) was added, and the reaction was stirred at 0° C. for 30 minutes. The mixture was concentrated, and the residue was purified by silica gel chromatography (20-40% EtOAc in hexanes) to give the title compound.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.54 mmol, 0.207 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | diisopropylethylamine | 2.16 mmol, 0.38 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | 0.81 mmol, 0.43 mL | C(=O)(Cl)Cl | CCl2O
reactant | Pyrrolidine | 1.62 mmol, 0.13 mL | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (2′-{[Ethyl-(pyrrolidine-1-carbonyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)N1CCCC1)CC)=O | C25H29F3N2O4
